US06673797B1
(1) Preparation of 1-Benzenesulfonyl-2-(5-methylfuran-2-yl)-5-methylthio-1H-pyrrolo[2,3-b]pyridine
To a solution of 2-benzenesulfonylamino-5-methylthio-3-iodopyridine (203 mg) in 1,4-dioxane (5 ml), 2-ethynyl-5-methylfuran (160 mg), bistriphenylphosphine palladium dichloride (18 mg), cuprous iodide (10 mg) and triethylamine (75 mg) were added successively and the mixture was stirred in a sealed tube at 60° C. for 1 hour. After cooling, the reaction solution was poured into water, extracted with dichloromethane, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was separated using silica gel preparative thin-layer chromatography (hexane:ethyl acetate=5:1) to obtain 169 mg of the desired products as a brown oil.

reactant | 2-benzenesulfonylamino-5-methylthio-3-iodopyridine | 203 mg | C1(=CC=CC=C1)S(=O)(=O)NC1=NC=C(C=C1I)SC | C12H11IN2O2S2
reactant | 2-ethynyl-5-methylfuran | 160 mg | C(#C)C=1OC(=CC1)C | C7H6O
reactant | triethylamine | 75 mg | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 1-Benzenesulfonyl-2-(5-methylfuran-2-yl)-5-methylthio-1H-pyrrolo[2,3-b]pyridine | 169 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)SC)C=2OC(=CC2)C | C19H16N2O3S2
